US03975383
3-(Triphenylmethylamino)-4-(3-phenylprop-2-ynylthio) azetidin-2-one (526mg) and methyl glyoxylate (1.17g) were refluxed in dry benzene (25ml) with provision for the removal of water. After 11/2 hours the solvent was evaporated and the residue was chromatographed on silica to give 1-(1-hydroxy-1-methoxycarbonylmethyl)-3-(triphenyl methylamino)-4-(3-phenylprop-2-ynylthio)azetidin-2-one as an amorphous solid (399 mg).

reactant | 3-(Triphenylmethylamino)-4-(3-phenylprop-2-ynylthio) azetidin-2-one | 526mg | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)NC1C(NC1SCC#CC1=CC=CC=C1)=O | C31H26N2OS
reactant | methyl glyoxylate | 1.17g | C(C=O)(=O)OC | C3H4O3
reactant | water | O | H2O
solvent | benzene | 25ml | C1=CC=CC=C1 | C6H6
product | 1-(1-hydroxy-1-methoxycarbonylmethyl)-3-(triphenyl methylamino)-4-(3-phenylprop-2-ynylthio)azetidin-2-one | 399 mg | OC(C(=O)OC)N1C(C(C1SCC#CC1=CC=CC=C1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C34H30N2O4S
